US08669380B2
(1S,2S,3S,4R,5S)-5-[4-chloro-3-(4-hydroxy-benzyl)-phenyl]-1-hydroxymethyl-6,8-dioxa-bicyclo[3.2.1]octane-2,3,4-triol
To a solution of (2S,3R,4S,5S)-2-[4-Chloro-3-(4-hydroxy-benzyl)-phenyl]-6,6-bis-hydroxymethyl-2-methoxy-tetrahydro-pyran-3,4,5-triol (580 mg, 1.32 mmol) in a mixture of dichloromethane (5 mL) of and 2-methyl-tetrahydrofuran (5 mL) was added Silicycle® Si-Tosic acid derivatized silica gel (40-63 micrometer, 0.68 mmol/g) Silicagel bound toluenesulfonic acid (1 g) and the reaction mixture was allowed to stir at room temperature overnight (˜16 hours). The mixture was filtered through a plug of Celite® and the plug rinsed with dichloromethane:2-methyl-tetrahydrofuran (40 mL; 1:1 volume). The crude material was purified by preparative HPLC on a Phenomenex Gemini NX 150×21.2 5 mm column eluting with a flow rate of 28 mL/minute; mobile phases A: water with 1% ammonium hydroxide modifier and B: methanol with 1% ammonium hydroxide modifier. The product was eluted using a gradient of 5% methanol with 1% ammonium hydroxide modifier for 1.5 minutes and increased in a linear gradient to 100% methanol with 1% ammonium hydroxide modifier over 8.5 minutes to give the product (375 mg; 69.7% yield, retention time=9.8 minute). LCMS 407 (M−H+, negative mode). 1H NMR (500 MHz, METHANOL-d4) delta ppm 3.56 (d, J=7.8 Hz, 1 H), 3.61 (d, J=7.3 Hz, 1 H), 3.66 (t, J=8.2 Hz, 1 H), 3.69 (d, J=12.4 Hz, 1 H), 3.79 (d, J=8.3 Hz, 1 H), 3.85 (d, J=12.4 Hz, 1 H), 4.01 (s, 2 H), 4.16 (d, J=7.3 Hz, 1 H), 6.69 (d, J=8.3 Hz, 2 H), 7.02 (d, J=8.3 Hz, 2 H), 7.34-7.37 (m, 1 H), 7.37-7.41 (m, 1 H), 7.45 (d, J=1.5 Hz, 1 H).

reactant | (2S,3R,4S,5S)-2-[4-Chloro-3-(4-hydroxy-benzyl)-phenyl]-6,6-bis-hydroxymethyl-2-methoxy-tetrahydro-pyran-3,4,5-triol | 1.32 mmol, 580 mg | ClC1=C(C=C(C=C1)[C@@]1(OC([C@H]([C@@H]([C@H]1O)O)O)(CO)CO)OC)CC1=CC=C(C=C1)O | C21H25ClO8
reactant | 2-methyl-tetrahydrofuran | 5 mL | CC1OCCC1 | C5H10O
reactant | toluenesulfonic acid | 1 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (1S,2S,3S,4R,5S)-5-[4-chloro-3-(4-hydroxy-benzyl)-phenyl]-1-hydroxymethyl-6,8-dioxa-bicyclo[3.2.1]octane-2,3,4-triol | 69.7% yield | ClC1=C(C=C(C=C1)[C@]12[C@@H]([C@H]([C@@H]([C@](CO1)(O2)CO)O)O)O)CC2=CC=C(C=C2)O | C20H21ClO7
